US07375113B2
4-(2-Phenylethyl)-1H-pyrazolo[3,4-b]pyridin-3-ol
A mixture of 2-bromo-3-methoxycarbonyl-4-(2-phenylethyl)pyridine (1.42 g), hydrazine monohydrate (0.65 mL) and N-methylpyrrolidone (10 mL) was stirred at 100° C. for 2 hours. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration, washed with water and dried under reduced pressure to give the title compound (0.74 g).

reactant | 2-bromo-3-methoxycarbonyl-4-(2-phenylethyl)pyridine | 1.42 g | BrC1=NC=CC(=C1C(=O)OC)CCC1=CC=CC=C1 | C15H14BrNO2
reactant | hydrazine monohydrate | 0.65 mL | O.NN
reactant | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-(2-Phenylethyl)-1H-pyrazolo[3,4-b]pyridin-3-ol | 0.74 g | C1(=CC=CC=C1)CCC1=C2C(=NC=C1)NN=C2O | C14H13N3O
